US04496540
First benzyloxycarbonyl-L-phenylalanyl-D-alanine methyl ester was prepared, as follows. A solution of 0.56 g of D-alanine methyl ester hydrochloride in 6 ml tetrahydrofuran was cooled to 0° C. and then treated with 0.53 ml of N-methylmorpholine. After 15 min of stirring, 1.20 g of benzyloxycarbonyl-L-phenylalanine and 1.08 g of 1-hydroxybenzotriazole were added. A cold solution of 0.99 g of N, N'-dicyclohexylcarbodiimide in 2 ml tetrahydrofuran was then added and the mixture stirred for 1 hour at 0° C., then overnight at room temperature. After adding 0.3 ml of glacial acetic acid, the mixture was stirred 5 min., filtered, and the filtrate concentrated in vacuo to dryness. The residue was dissolved in CHCl3, washed 3 times with 5% aqueous NaHCO3, dried over anhydrous Na2SO4, and the solvent removed in vacuo. The residue was purified by silica gel column chromatography (silica 60 g) using CHCl3 followed by CHCl3 -acetone 10:1 as eluant. Appropriate fractions were pooled and the solvent removed in vacuo to obtain 0.74 g of white solid, m.p. 134-136 C. TLC on silica gel using an eluant of 10 acetone gave Rf =0.37.

reactant | D-alanine methyl ester hydrochloride | 0.56 g | Cl.COC([C@H](N)C)=O
reactant | N-methylmorpholine | 0.53 ml | CN1CCOCC1 | C5H11NO
reactant | benzyloxycarbonyl-L-phenylalanine | 1.20 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | 1-hydroxybenzotriazole | 1.08 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N, N'-dicyclohexylcarbodiimide | 0.99 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
product | benzyloxycarbonyl-L-phenylalanyl-D-alanine methyl ester | COC([C@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)C)=O | C21H24N2O5
